US06716984B2
A solution of PBr3 (2.5 g, 9.2 mm) in 15 mL of pyridine was treated with 1,3-dimethoxybenzene (2.5 g, 18.1 mm) over a period of 5 min. The resulting mixture was then refluxed for 4 h. to give the crude 1-dibromophosphino-2,4dimethoxybenzene (31P NMR: δ159.2 ppm). This compound was used directly for the next step without further purification. Next, polymer-supported secondary amines from Example 1 (10.0 g, 1.1 mmol/g, 11.0 mmol) was slowly added into the mixture above while stirring at room temperature for a period of 10 min. The resulting suspension was stirred at room temperature overnight before the solution was filtered off. The resin was washed with THF (50 mL), hexane (3×50 mL), CH2Cl2 (4×50 mL), and hexane (2×50 mL). The resulting resin was dried in vacuum overnight to yield the polymer-supported 2-P(Br)-1,5-(MeO)2-C6H3. 31P NMR (122 MHz, CDCl3): δ153.8 ppm.

reactant | PBr3 | 2.5 g | P(Br)(Br)Br | Br3P
reactant | 1,3-dimethoxybenzene | 2.5 g | COC1=CC(=CC=C1)OC | C8H10O2
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 1-dibromophosphino-2,4dimethoxybenzene | BrP(C1=C(C=C(C=C1)OC)OC)Br | C8H9Br2O2P
